US07847101B2
2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonic acid [2-(3H-imidazol-4-yl)-ethyl]-amide (551-19B):
the title compound (8 mg) was prepared from crude 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonyl chloride (100 mg, 0.30 mmol), 2-(3H-imidazol-4-yl)-ethylamine (68 mg, 0.60 mmol) and PS-NMM (0.320 g, 0.60 mmol) in 5 mL of methanol. MS (m/z, ES+): 404.3 (M+1, 100%). Yield=6%.

reactant | 2-(5-amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonyl chloride | 0.30 mmol, 100 mg | NC1=C(C(=NN1)C)C=1SC2=C(N1)C=CC(=C2)S(=O)(=O)Cl | C11H9ClN4O2S2
reactant | 2-(3H-imidazol-4-yl)-ethylamine | 0.60 mmol, 68 mg | N1=CNC(=C1)CCN | C5H9N3
reactant | NMM | 0.60 mmol, 0.320 g | CN1CCOCC1 | C5H11NO
solvent | methanol | 5 mL | CO | CH4O
product | 2-(5-Amino-3-methyl-1H-pyrazol-4-yl)-benzothiazole-6-sulfonic acid [2-(3H-imidazol-4-yl)-ethyl]-amide | 8 mg, Yield=6% | N1=CNC(=C1)CCNS(=O)(=O)C1=CC2=C(N=C(S2)C=2C(=NNC2N)C)C=C1 | C16H17N7O2S2
